US07781431B2
Step 4: (1-benzyl-2-chloro-5-phenyl-1H-pyrrol-3-yl)methanol
A solution (0.24 M) of methyl 1-benzyl-2-chloro-5-phenyl-1H-pyrrole-3-carboxylate in DCM at −78° C. was treated with diisobutylaluminium hydride (1 M solution in DCM, 2.5 eq.). The resulting solution was stirred at −78° C. for 2 h then it was warmed to 0° C. and quenched with MeOH. The Rochelle solution (10% wt sodium and potassium tartrate) was added and the mixture was stirred at RT for 1 h (until two phases came out). The mixture was extracted with DCM and the combined organic phase was treated with brine and dried. Evaporation of the solvent afforded the title compound (90%) as an oil.

reactant | methyl 1-benzyl-2-chloro-5-phenyl-1H-pyrrole-3-carboxylate | 0.24 M | C(C1=CC=CC=C1)N1C(=C(C=C1C1=CC=CC=C1)C(=O)OC)Cl | C19H16ClNO2
reactant | diisobutylaluminium hydride | 1 M, 2.5 eq. | [H-].C(C(C)C)[Al+]CC(C)C
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (1-benzyl-2-chloro-5-phenyl-1H-pyrrol-3-yl)methanol | 90% | C(C1=CC=CC=C1)N1C(=C(C=C1C1=CC=CC=C1)CO)Cl | C18H16ClNO
